US07008759B2
5-Methoxyindole (50 g, 0.34 mol) was dissolved in glacial acetic acid (500 mL) in a 3 L 3-necked flask fitted with a mechanical stirrer, a dropping funnel and a thermometer. The solution was cooled to 10–12° C. with an ice bath and sodium cyanoborohydride (64 g, 1.0 mol) was added in portions while ensuring the temperature remained at or below 15–16° C. After the addition was complete the cooling bath was removed and the reaction was warmed to ambient temperature for 0.5 hour. TLC (1:1 EtOAc/hexane) confirmed a complete reaction. The reaction was cooled to 5–10° C. and 50% aqueous sodium hydroxide was added until the pH was 8–10. The product oiled out and was extracted with ethyl acetate (3×700 mL). The combined organic layers were washed with water (2×500 mL) and brine (400 mL), dried over anhydrous potassium carbonate, filtered and concentrated to afford 5-methoxyindoline (50 g, 0.337 mol, 99% yield) as a thick oil. This product was used without further purification.

reactant | 5-Methoxyindole | 0.34 mol, 50 g | COC=1C=C2C=CNC2=CC1 | C9H9NO
reactant | sodium cyanoborohydride | 1.0 mol, 64 g | C(#N)[BH3-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 500 mL | C(C)(=O)O | C2H4O2
product | 5-methoxyindoline | 0.337 mol, 50 g, 99% yield | COC=1C=C2CCNC2=CC1 | C9H11NO
